US07994185B2
Step C: Methyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorobenzoate
In a 500 mL flask was placed methyl 3-amino-2-fluorobenzoate (5.5 g, 32.5 mmol) and DCM (100 mL), and pyridine (2.9 mL, 35.8 mmol) was added. 2,6-Difluorobenzenesulfonyl chloride (7.6 g, 35.8 mmol) in DCM (50 mL) was added dropwise via addition funnel and the reaction mixture was allowed to stir at rt overnight. The reaction mixture was stripped onto silica and column chromatographed on silica with 5% to 100% EtOAc:Hexane to give 9.75 g (87%) of the title compound of Step C. 1H-NMR (400 MHz, DMSO-d6) δ 10.98 (s, 1H), 7.64-7.82 (m, 3H), 7.46-7.61 (m, 1H), 7.29 (t, J=8.8 Hz, 2H), and 3.81 (s, 3H). MS (ESI): 346 [M+H]+.

reactant | methyl 3-amino-2-fluorobenzoate | 32.5 mmol, 5.5 g | NC=1C(=C(C(=O)OC)C=CC1)F | C8H8FNO2
reactant | pyridine | 35.8 mmol, 2.9 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,6-Difluorobenzenesulfonyl chloride | 35.8 mmol, 7.6 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorobenzoate | 9.75 g, 87% | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C(=C(C(=O)OC)C=CC1)F | C14H10F3NO4S
